US07122543B2
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate
To a solution of methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate (175 mg, 0.4654 mmol) in anhydrous methylene chloride (10 ml) were added 4-dimethylaminopyridine (77 mg, 0.6311 mmol), triethylamine (85 mg, 0.8415 mmol) and trifluoromethanesulfonic acid anhydride (177 mg, 0.6276 mmol) and the mixture was stirred for 3 hours under cooling with ice. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give the title compound (160 mg, 0.3149 mmol, 68%).

reactant | methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 0.4654 mmol, 175 mg | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | triethylamine | 0.8415 mmol, 85 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 0.6276 mmol, 177 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.6311 mmol, 77 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 0.3149 mmol, 160 mg, 68% | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
